US06150373
A mixture of 70 mg (0.15 mmol) of 3-(2,6-dichlorophenyl)-1-[2-cyclohexen-1(RS)-yl]-7-methanesulfonyl-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one and 150 mg (0.7 mmol) of 4-[2-(diethylamino)ethoxy]aniline was heated at 180° C. for 35 minutes and then cooled. The residue was subjected to column chromatography on silica gel using dichloromethane/methanol/acetic acid/water (240:24:3:2) for the elution. Product-containing fractions were combined and evaporated and the residue was evaporated with toluene. The residue was then dissolved in 30 ml of dichloromethane, washed twice with 20 ml of saturated aqueous sodium bicarbonate solution each time, dried over magnesium sulfate, filtered and evaporated to give 5 mg (22%) of 3-(2,6-dichlorophenyl)-1-[2-cyclohexen-1(RS)-yl]-7-[4-[2-(diethylamino)ethoxy]anilino]-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one as an orange colored gum. [Mass spectrum (ESI) MH+ =581].

reactant | 3-(2,6-dichlorophenyl)-1-[2-cyclohexen-1(RS)-yl]-7-methanesulfonyl-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one | 0.15 mmol, 70 mg | ClC1=C(C(=CC=C1)Cl)N1C(N(C2=NC(=NC=C2C1)S(=O)(=O)C)C1C=CCCC1)=O | C19H18Cl2N4O3S
reactant | 4-[2-(diethylamino)ethoxy]aniline | 0.7 mmol, 150 mg | C(C)N(CCOC1=CC=C(N)C=C1)CC | C12H20N2O
solvent | dichloromethane methanol acetic acid water | ClCCl.CO.C(C)(=O)O.O
product | 3-(2,6-dichlorophenyl)-1-[2-cyclohexen-1(RS)-yl]-7-[4-[2-(diethylamino)ethoxy]anilino]-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one | 5 mg, 22% | ClC1=C(C(=CC=C1)Cl)N1C(N(C2=NC(=NC=C2C1)NC1=CC=C(C=C1)OCCN(CC)CC)C1C=CCCC1)=O | C30H34Cl2N6O2
